US04395547
To 4.99 g (0.039 moles) of 3-oximino-2,4-pentanedione dissolved in acetonitrile (40 ml) was added 4.59 ml (0.039 moles) of methyl 2-aminobutyrate. After stirring for two hours at room temperature, then at reflux for 2.5 h, the reaction mixture was cooled and treated with 15 ml of ethanol and 15 ml of 10% aqueous sodium hydroxide. The resulting mixture was refluxed for 3.8 h, cooled, then extracted with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, then concentrated in vacuo to give 0.024 moles (62% yield) of 5-acetyl-2-ethyl-4-methylimidazole.

reactant | 3-oximino-2,4-pentanedione | 0.039 moles, 4.99 g | N(O)=C(C(C)=O)C(C)=O | C5H7NO3
reactant | methyl 2-aminobutyrate | 0.039 moles, 4.59 ml | NC(C(=O)OC)CC | C5H11NO2
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 5-acetyl-2-ethyl-4-methylimidazole | 0.024 moles, 62% yield | C(C)(=O)C1=C(N=C(N1)CC)C | C8H12N2O
